US05679623
Example H10: 2,3-Dihydro4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole (compound no. 4.1 in table 4).
A solution of 156 g of 3-acetylmethyl-2,3-dihydro-5-methyl-2-oxo-1,3,4-oxadiazole in 600 ml of acetonitrile is treated with 170 g of aqueous ammonia solution (30%), and the mixture is stirred for one hour at 80° in an autoclave. A pressure of approximately 8 bar is in this case established. The resulting suspension is evaporated, the residue is dissolved in 500 ml of methanol, and 40 g of gaseous HCl are passed into the solution at 50°. The reaction mixture is stirred for 30 minutes at 50°, and 107 g of 3-formylpyridine are then added dropwise at the same temperature. The reaction mixture is stirred for a further 30 minutes at 50°, then cooled to 0°, and filtered with suction. The filter cake, consisting of 2,3-dihydro-2-oxo-1-pyrid-3-ylmethyleneamino-4-tert-butyl-1H-imidazole hydrochloride (compound no. 4.1.1 in table 4), is dissolved in water at room temperature. The pH of the solution is brought to approximately 7 using aqueous sodium hydroxide solution (30%), during which process a precipitation of crystals is observed at a pH of approximately 3. The crystals are filtered off with suction and dried in vacuo, yielding the title compound melting at 200°-202°.

reactant | 3-acetylmethyl-2,3-dihydro-5-methyl-2-oxo-1,3,4-oxadiazole | 156 g | C(C)(=O)CN1C(OC(=N1)C)=O | C6H8N2O3
reactant | ammonia | 170 g | N | H3N
solvent | acetonitrile | 600 ml | C(C)#N | C2H3N
product | 2,3-Dihydro4-methyl-2-oxo-1-pyrid-3-ylmethyleneamino-1H-imidazole | CC=1NC(N(C1)N=CC=1C=NC=CC1)=O | C10H10N4O
